US05059689
104.0 g of 2,4-dichloro-6-isopropyloxy-1,3,5-triazine and 148.3 g of 2,2,6,6-tetramethylpiperidine are reacted in 300 ml of xylene as described in Example 1 and worked up. 2-Chloro-4-isopropyloxy-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine is obtained by crystallization from hexane as colorless crystals having a melting point of 111°-112°.

reactant | 2,4-dichloro-6-isopropyloxy-1,3,5-triazine | 104.0 g | ClC1=NC(=NC(=N1)Cl)OC(C)C | C6H7Cl2N3O
reactant | 2,2,6,6-tetramethylpiperidine | 148.3 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | hexane | CCCCCC | C6H14
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloro-4-isopropyloxy-6-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | ClC1=NC(=NC(=N1)OC(C)C)N1C(CCCC1(C)C)(C)C | C15H25ClN4O
